US05637780
4-(Methoxyethoxymethoxymethyl)benzyl chloride
A 5 liter round bottom flask, fitted with a reflux condensor, dropping funnel and mechanical stirrer, was charged with p-hydroxymethylbenzyl chloride (255 g, 1.91 moles) in dichloromethane (2 liters). The flask was charged with 2-methoxyethoxymethyl chloride (300 g, 2.41 moles) and stirred at 20°-25° C. while N,N-diisopropylethylamine (500 mL, 2.86 moles) was slowly added. The reaction became exothermic and caused the dichloromethane solvent to reflux vigorously for 20 minutes. The contents were then stirred for 24 hours at room temperature. The dichloromethane extract was washed with water and brine. The remaining organics were dried over anhydrous magnesium sulfate. After removal of the solvent by rotary evaporation, the residue was passed through a plug of silica gel to provide 310 g (67% yield) of the desired product. 1H NMR spectral data were as follows: (CDCl3, 300 MHz): δ7.35 (m, 4H), 4.80 (s, 2H), 4.62 (s, 2H), 4.58 (s, 2H), 3.72 (m, 2H), 3.58 (m, 2H), 3.4 (s, 3H).

reactant | p-hydroxymethylbenzyl chloride | 1.91 moles, 255 g | OCC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 2-methoxyethoxymethyl chloride | 2.41 moles, 300 g | COCCOCCl | C4H9ClO2
reactant | N,N-diisopropylethylamine | 2.86 moles, 500 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 liters | ClCCl | CH2Cl2
product | 4-(Methoxyethoxymethoxymethyl)benzyl chloride | 310 g, 67% yield | COCCOCOCC1=CC=C(CCl)C=C1 | C12H17ClO3
